US09169243B2
To a solution of (S)-4-bromo-N-(1,1,1-trifluoropropan-2-yl)thiazole-2-carbothioamide (46 g, 1.0 eq.) was added hydrazine hydrate (15 g, 2.0 eq.). It was refluxed overnight. TLC and LCMS showed the reaction was complete. It was concentrated and the residue was purified by a flash column to obtain (S)-4-bromo-N-(1,1,1-trifluoropropan-2-yl)thiazole-2-carbohydrazonamide.

reactant | (S)-4-bromo-N-(1,1,1-trifluoropropan-2-yl)thiazole-2-carbothioamide | 46 g, 1.0 eq. | BrC=1N=C(SC1)C(N[C@H](C(F)(F)F)C)=S | C7H6BrF3N2S2
reactant | hydrazine hydrate | 15 g, 2.0 eq. | O.NN
product | (S)-4-bromo-N-(1,1,1-trifluoropropan-2-yl)thiazole-2-carbohydrazonamide | BrC=1N=C(SC1)C(N[C@H](C(F)(F)F)C)=NN | C7H8BrF3N4S
